US08039503B2
E3.1. Synthesis of tert-butyl 4-hydroxy-4-(mercaptomethyl)piperidine-1-carboxylate (Compound 4)
Sodium sufide nonahydrate (60 g, 0.25 mol) was dissolved in MeOH (1.25 L), and the resulting solution was degassed by applying vacuumn and filling nitrogen three times. The solution was then cooled to 0° C. with an ice-water bath. To the above solution was added p-toluenesulfonic acid hydrate (76 g, 0.4 mol) and the resulting mixture was stirred at 0° C. for 10 min A yellowish colored solution was formed. The tert-butyl 1-oxa-6-azaspiro[2.5]octane-6-carboxylate (21.2 g, 0.1 mol) was added to the reaction mixture and stirred at 0° C. for 1 h and then at room temperature for 1.5 h. Saturated sodium bicarbonate solution (200 mL) was added to the reaction, and the methanol was evaporated under reduced pressure. To the residue was added water (500 mL) and extracted with EtOAc (1×400 mL and 2×250 mL), the combined organic layer was washed with brine (250 mL) and dried over sodium sulfate. After concentration, the crude product (26.2 g) was obtained as an oil. The crude product was purified by flash column chromatography (SiO2, 5% to 40% EtOAc in hexanes) to afford the product as a white solid. (19.2 g, 78%). M.p.=54-55° C.; 400 MHz 1H NMR (CDCl3) δ: 3.97-3.80 (m, 2H), 3.19-3.08 (m, 2H), 2.61 (d, J=4.4 Hz, 2H), 2.22 (s, 1H), 1.68-1.60 (m, 2H), 1.50-1.40 (m, 11H); LCMS: 248 [M+H].

reactant | Sodium | 0.25 mol, 60 g | [Na] | Na
reactant | p-toluenesulfonic acid hydrate | 0.4 mol, 76 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | tert-butyl 1-oxa-6-azaspiro[2.5]octane-6-carboxylate | 0.1 mol, 21.2 g | O1CC12CCN(CC2)C(=O)OC(C)(C)C | C11H19NO3
reactant | sodium bicarbonate | 200 mL | C([O-])(O)=O.[Na+]
solvent | MeOH | 1.25 L | CO | CH4O
product | tert-butyl 4-hydroxy-4-(mercaptomethyl)piperidine-1-carboxylate | OC1(CCN(CC1)C(=O)OC(C)(C)C)CS | C11H21NO3S
